US04725602
2-Iodo-5-methoxy-N,N-dimethylalphapentylbenzenepropanamine hydrochloride
A mixture of 13.0 g (0.036 mole) of 1-(2-iodo-5-methoxyphenyl)heptan-2-one, 46.6 ml (0.18 mole) of a solution of 3.86 M dimethylamine in methanol, 8.24 g (0.101 mole) of dimethylamine hydrochloride, 100 ml of methanol and 1.82 g (0.029 mole) of sodium cyanoborohydride was stirred overnight under an atmosphere of nitrogen. Stirring was continued an additional two hours and the reaction mixture acidified to pH 1 by addition of concentrated hyirochloric acid. The solvent was evaporated in vacuo, the residue partitioned between methylene chloride and water, and the methylene chloride layer separated, washed with Na2S2O5 solution followed by a washing with 3 M sodium hydroxide solution. The organic phase was dried over anhydrous potassium carbonate and evaporated in vacuo to yield a yellow oil. The oil was dissolved in methanol and the solution treated with ethereal hydrogen chloride to pH 5. The solvent was removed in vacuo and the residue dissolved in 45 ml of refluxing ethyl acetate. Some slight turbidity was removed by filtration through filter aid. The filtrate was cooled to room temperature and diluted with 20 ml of diethyl ether. The solution was cooled overnight in a refrigerator and the resulting solid, 3.34 g, removed by filtration. The filtrate was evaporated in vacuo, the residue triturated with ether and seeded to yield a second crop of off-white solid, 1.66 g. One recrystallization from ethyl acetate yielded pure 2-iodo-5-methoxy-N,N-dimethylalphapentylbenzenepropanamine hydrochloride, mp 100°-103° C.

reactant | 1-(2-iodo-5-methoxyphenyl)heptan-2-one | 0.036 mole, 13.0 g | IC1=C(C=C(C=C1)OC)CC(CCCCC)=O | C14H19IO2
reactant | dimethylamine | 3.86 M | CNC | C2H7N
reactant | dimethylamine hydrochloride | 0.101 mole, 8.24 g | Cl.CNC
reactant | sodium cyanoborohydride | 0.029 mole, 1.82 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Iodo-5-methoxy-N,N-dimethylalphapentylbenzenepropanamine hydrochloride | Cl.IC1=C(C=C(C=C1)OC)CCC(N(C)C)CCCCC | InChI=1S/C17H28INO.ClH/c1-5-6-7-8-15(19(2)3)10-9-14-13-16(20-4)11-12-17(14)18;/h11-13,15H,5-10H2,1-4H3;1H
